US04411900
A mixture of 2-acetamido-5-chloro-4-chloromethylthiazole (450 mg), 1-benzhydrylpiperazine (504 mg) and potassium carbonate (276 mg) in N,N-dimethylformamide (3 ml) was stirred at 70° C. for 20 minutes. After the reaction mixture was poured into ice-water, the precipitated crystals were collected by filtration, washed with water and then dried, followed by recrystallization from a mixture of ethyl acetate and n-hexane to obtain crystals (355 mg) of 2-acetamido-5-chloro-4-(4-benzhydrylpiperazin-1-ylmethyl)thiazole, mp 227°-230° C.

reactant | 2-acetamido-5-chloro-4-chloromethylthiazole | 450 mg | C(C)(=O)NC=1SC(=C(N1)CCl)Cl | C6H6Cl2N2OS
reactant | 1-benzhydrylpiperazine | 504 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | potassium carbonate | 276 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-acetamido-5-chloro-4-(4-benzhydrylpiperazin-1-ylmethyl)thiazole | 355 mg | C(C)(=O)NC=1SC(=C(N1)CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)Cl | C23H25ClN4OS
